Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dizziness, gait unsteadiness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is ___ year old man with complicated pmhx. He is poor
historian and most of his history is gathered from chart review.
Briefly, Mr. ___ is a ___ year old male with history of 
multiple CVAs, Korsakoff's dementia, hx of EtoH use who 
presented with ___ day
history of headache, blurry vision, word finding difficulty and
gait instability. 
H
e was evaluated at ___ for these symptoms where he
underwent CTA head which was reportedly concerning for linear
low signal area along the lateral side of the proximal left ICA
suggesting an intimal flap which was not present on previous CTA
from ___. He was subsequently transferred to ___ for
further evaluation. 
 
He reports, he went to the hospital today for evaluation of a
couple of days of gait instability . He usually walks 
unassisted,
but for the past few days he had to hold onto things. He did not
fall. He felt like he was wearing to the left. He also noticed
dizziness, which he described as room spinning. As well as a
bifrontal headache.  He cannot give any further description 
about
onset timing of events, or how long it lasted. He denies any
other new associated neurological symptoms. He does endorse some
intermittent right upper extremity numbness and right foot
numbness, but says that this has been there since his old
strokes. He also endorses a stuttering speech, which is chronic. 


Per ___ records he presented there complaining of 2 days
of gradual onset frontal headache visual disturbances and some
speech difficulty with right-sided upper extremity weakness.
According to their review of records it says that he has had 
some
visual disturbance as well most recently, and underwent a CT had
an MRI of his brain in ___ for these symptoms, which 
showed
old infarcts, but nothing new they told him that he had a TIA. 

Review od records from ___ indicate that pt has been seen for
stroke like symptoms at least 4 x in ___ and 10 x in ___. he
underwent ___ MRI brains in the past ___ years. Most recent one
reportedly showed tiny acute cortical infarct in left frontal
lobe and extensive bilateral parietal and moderate bilateral
frontal lobegliosis possibly from prior infarct. An echo from
___ was unremarkable. CUS showed  moderate soft and calcified
plaque in each carotid system, but no hemodynamically 
significant
stenosis .

He was seen here at ___ by Dr. ___ recently in ___. Per his notes he reportedly saw him for expressive apahsia
and memory problems, which after after reviewing his MRI brain
scan (impressive for changes consisting of bifrontal atrophy,
cavum septum pellucidum and bilateral symmetric 
parieto-occipital
confluent T2 changes suggesting a leukodystrophy) and based on
his exam was thought to be due to borderline dementia or at
least advanced mild cognitive impairment. The basis of which was
thought to be vascular and alcoholism.
He was referred to ___-Fitness ___ memory training
sessions.  

On neuro ROS, the pt denies dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  No bowel or bladder incontinence or
retention.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
PMH: PVD, HTN, HL, alcoholism (remote), tobacco use, hip and 
thigh injury, multiple CVAs, TIAs, leukodystrophy (MRI)

PSH: prior RLE angio with popliteal stent (fem-pop bypass)

 
Social History:
Retired from ___.  Former ETOH, sober x ___,
___ cigarettes daily, denies illicits.  Lives with daughter. At
baseline he can shop and cook  for himself, use the toilet,
shower and dress himself, his daughter takes care of his
finances. He can walk unassisted.      

- Modified Rankin Scale:
[] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[x] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
NC
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================

Physical Exam:
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Mildly inattentive, able to
name ___ backward but with prompting and several tries. Language
is fluent with intact repetition and comprehension. Pt was able
to name both high and low frequency objects. Speech was
stuttering in nature. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. He appears to have Bitemporal
hemianopsia, although visual field testing was difficult in him
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. RUE drifted upwards. He 
had
a B/L postural and intention tremor.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5 

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         
Plantar response flexor bilaterally. 

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-Coordination: B/L postural and intention tremor. he did miss 
the
target on ___ often but also did not look at my finger even
though I told him he needs to look at my finger.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk without assistance.

DISCHARGE PHYSICAL EXAM: 
========================
- General: NAD, pleasant
- HEENT: NC/AT with glasses on
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated

Neurologic:

-Mental Status: Alert, oriented to place and usually gets full 
day. Language is fluent with intact repetition and 
comprehension. He does have speech hesitancy and sometimes word 
finding difficulty. Able to name high and low frequency objects. 
Inattention on exam but does better with significant 
encouragement. Can self-correct ___ backward. Severe apraxia 
stable.

-Cranial Nerves:

II: PERRL 4 to 2mm and brisk. VFF to finger test ___.
III, IV, VI: EOMI with difficulty as he has some oculomotor 
ataxia but able to track face.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.

-Motor: Normal bulk, tone throughout. No drift. He had
a B/L postural and intention tremor. Motor full throughout.
   
-Sensory: No deficits to light touch. 
-Coordination: B/L postural and intention tremor. 

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 05:30AM   GLUCOSE-79 UREA N-18 CREAT-1.1 SODIUM-146* 
POTASSIUM-4.6 CHLORIDE-105 TOTAL CO2-29 ANION GAP-12
___ 05:30AM   ALT(SGPT)-10 AST(SGOT)-10 LD(LDH)-170 ALK 
PHOS-77 TOT BILI-0.4
___ 05:30AM   ALBUMIN-3.5 CALCIUM-8.8 PHOSPHATE-4.0 
MAGNESIUM-2.0
___ 05:30AM   WBC-5.5 RBC-4.39* HGB-13.1* HCT-39.3* MCV-90 
MCH-29.8 MCHC-33.3 RDW-12.9 RDWSD-42.2
___ 05:30AM   NEUTS-59.4 ___ MONOS-8.1 EOS-3.2 
BASOS-0.4 IM ___ AbsNeut-3.29 AbsLymp-1.59 AbsMono-0.45 
AbsEos-0.18 AbsBaso-0.02
___ 05:30AM   PLT COUNT-168
___ 05:30AM   ___ PTT-34.2 ___
___ 09:33PM   %HbA1c-5.6 eAG-114
___ 07:26PM URINE  HOURS-RANDOM
___ 07:26PM URINE  UHOLD-HOLD
___ 07:26PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:26PM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 07:26PM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 07:26PM URINE  RBC-11* WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 06:36PM   LACTATE-0.9
___ 06:25PM   GLUCOSE-90 UREA N-14 CREAT-1.0 SODIUM-144 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-28 ANION GAP-12
___ 06:25PM   estGFR-Using this
___ 06:25PM   ALT(SGPT)-11 AST(SGOT)-11 ALK PHOS-84 TOT 
BILI-0.4
___ 06:25PM   ALBUMIN-3.8 CALCIUM-8.8 PHOSPHATE-3.6 
MAGNESIUM-1.9 CHOLEST-136
___ 06:25PM   TRIGLYCER-58 HDL CHOL-43 CHOL/HDL-3.2 
LDL(CALC)-81
___ 06:25PM   TSH-1.8
___ 06:25PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:25PM   WBC-6.2 RBC-4.60 HGB-13.2* HCT-40.6 MCV-88 
MCH-28.7 MCHC-32.5 RDW-12.6 RDWSD-40.7
___ 06:25PM   NEUTS-60.0 ___ MONOS-7.2 EOS-2.9 
BASOS-0.6 IM ___ AbsNeut-3.72 AbsLymp-1.80 AbsMono-0.45 
AbsEos-0.18 AbsBaso-0.04
___ 06:25PM   PLT COUNT-164
___ 06:25PM   ___ PTT-36.5 ___

IMAGING: 
========
___ Echo - No PFO, ASD, or cardiac source of embolism seen.
Symmetric LVH with normal global and regional biventricular
systolic function. Mild aortic stenosis. Mild aortic
regurgitation. Mild pulmonary hypertension.  

___ MRI and MRA brain - Bilateral subacute appearing occipital
and parietal lobe infarctions. Multiple small foci of acute
appearing infarction. No evidence of hemorrhage. Normal brain
MRA. Atheromatous disease internal carotid artery origins
bilaterally with no evidence of stenosis by NASCET criteria. 
Outpouching in the proximal left internal carotid artery that 
may
represent an ulcer. 

___ CT Torso
1. No suspicious intrathoracic neoplastic process. 
2. Mild centrilobular emphysematous changes.  Calcified 
granulomas. 
3. Indeterminate sub centimeter left anterior interpolar renal 
cortical 
hypodense lesion, too small to characterize.  Follow-up is 
recommended in 6  months. 
4. Colonic diverticulosis. 
5. Renal cortical cysts.  Nephrolithiasis with no 
hydronephrosis. 

INTREVAL LABS: 
==============
___ 05:08AM BLOOD Thrombn-14.1
___ 05:08AM BLOOD ProtCFn-114 ProtSFn-90
___ 04:55AM BLOOD D-Dimer-___*
___ 09:33PM BLOOD %HbA1c-5.6 eAG-114
___ 06:25PM BLOOD Triglyc-58 HDL-43 CHOL/HD-3.2 LDLcalc-81
___ 06:25PM BLOOD TSH-1.8
___ 05:08AM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-Test      
___ 05:08AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-Test    
  
___ 05:08AM BLOOD ANTITHROMBIN ANTIGEN-Test Name 
 
Brief Hospital Course:
___ year old male with multiple CVAs, unknown etiology and 
history of likely vascular dementia, remote EtOH abuse who 
presented with ___ day history of headache, blurry vision, word 
finding difficulty and gait instability. 
.
#Acute ischemic infarcts
Exam notable for fully oriented but fluctuating inattentive exam 
and short term memory problems. No facial droop, motor full 
throughout, sensation intact, difficulty with finger tap L>R, 
gait unsteady and positive Romberg. He also had simultagnosia, 
ocular ataxia and ocular apraxia c/w with Balint's syndrome 
(bihemispheric parietal-occipital old infarcts). CTA head and 
neck at OSH with concern for possible ICA flap/dissection so was 
admitted for MRA fat saturation images. MRA without dissection 
(likely ulcerative plaque)with acute punctate infarcts 
bilaterally and old bihemispheric parietal occipital infarcts 
c/w ?watershed etiology. Etiology of acute infarcts uncertain 
but thought to be cardioembolic given bilateral nature of 
infarcts. In addition, artery to artery embolus was also 
possible given significant vascular disease. 
.
In terms of cardioembolic w/u: TTE negative for PFO, thrombus or 
atrial appendage but does have enlarged LA. TEE not done as his 
prior TEE at ___ was negative for PFO and thrombus. He does have 
risk factors for afib give ?snoring and possible OSA (although 
no nocturnal desats here). TSH wnl. Hypercoagulable work-up only 
notable for indeterminate cardiolipin IgM. D-Dimer ~1700, but CT 
torso negative for malignant process. 
.
Anticoagulation was discussed given his prior multiterritorial 
infarcts. However, because we had no clear evidence of an 
embolic source and there was still a possibility of watershed or 
artery to artery pathology, he was continued on aspirin and 
Plavix. He will be discharged with ___ of hearts monitor 
given the high suspicion for cardioembolic disease. 
.
Simvastatin 40 mg was changed to atorvastatin 40 mg daily (LDL 
81). A1c 5.6. Lisinopril was stopped given he was not 
hypertensive and even had sbp 100s at times. Please f/u as 
outpatient and consider resuming. He will follow up with stroke 
neurology as an outpatient.
.
He was evaluated by physical therapy who felt that he could 
either go home or to rehab. He has limited support at home and 
we were unable to reach his daughter after multiple attempts to 
discuss his care. He ultimately was discharged to rehab. 
.
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL =81 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
 ]
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? () Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A
.
#Legally blind
SW consulted for blind resources given legally blind on exam. OD 
___, OS ___ w/ glasses on. Recommend optho f/u as 
outpatient.  SW unable to find specific services for the Blind 
in ___, but provided pt with contact info for 
___ and ___ (below). 
 Recommend f/u
with SW at rehab or through ___, as they will be more familiar 
with services available available to pt in ___.
.
Resources: 
.
___
___
___ 
___
Our Services:
Home Care
Disability Support
.
___
___
___
.
#Sinus bradycardia
Bradycardia to ___ overnight while sleeping. Asymptomatic. No 
evidence of conduction abnormality. Several culprit medications 
including donepezil and propranolol. TSH wnl. Propranolol 
decreased from 40 mg BID to 20 mg BID with improvement in 
bradycardia to ___.  

TRANSITIONAL ISSUES: 
====================
[] f/u blood pressure. Goal sbp<140. Held lisinopril in the 
setting of acute stroke and then did not resume given sbp<140 
throughout hospital course. Resume PRN at rehab vs. outpatient
[] f/u ___ of Hearts, consider implantable loop. If positive 
for afib, will need Coumadin
[] Needs optho f/u for legal blind exam. Will need visual aid 
resources as outpatient. 
[] Please continue ongoing smoking cessation counseling
[] CT pelvis f/u: Indeterminate sub centimeter left anterior 
interpolar renal cortical hypodense lesion, too small to 
characterize. Follow-up is recommended in 6 months (from ___. 
[] NO NSAIDS (he is on ASA and Plavix) and this would be 
dangerous as he is at increased risk of bleeding.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Clopidogrel 75 mg PO DAILY 
5. Propranolol 40 mg PO BID 
6. Mirtazapine 15 mg PO QHS 
7. Sertraline 75 mg PO DAILY 
8. Donepezil 5 mg PO QHS 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  Propranolol 20 mg PO BID  
3.  Aspirin 325 mg PO DAILY  
4.  Clopidogrel 75 mg PO DAILY  
5.  Donepezil 5 mg PO QHS  
6.  Mirtazapine 15 mg PO QHS  
7.  Sertraline 75 mg PO DAILY  
8. HELD- Lisinopril 20 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until told to resume by your PCP
9. HELD- Simvastatin 40 mg PO QPM  This medication was held. Do 
not restart Simvastatin until never. it is being replaced by 
atorvastatin

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic infarct
Legally blind
Sinus bradycardia 

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Confused - sometimes.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of difficulty speaking and 
walking resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
*smoking
*high blood pressure
*high lipids

We are changing your medications as follows:
*STOP simvastatin 40 mg daily, START taking atorvastatin 40 mg 
daily
*STOP lisinopril. Your blood pressure was not elevated while you 
were hospitalized. Your PCP may decide to resume it at your 
follow-up appointment
*DECREASE propranolol 40 mg BID to 20 mg BID 

Please take your other medications as prescribed in the 
discharge paperwork. Do not take NSAIDs such as naproxen or 
ibuprofen as you are on aspirin and Plavix, and you are at 
increased risk of bleeding.

Please follow-up with Neurology and your primary care physician 
as described below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___